US05952531
Acetic anhydride (37.7 g) was added to 3-(2-chloro-α,α,α-trifluoro-4-tolyloxy)-benzoic acid (86% strength, 45 g) in n-butyl acetate (85.8 g) at 35° C. Sulphuric acid (98%, 12.2 g) was added slowly and the mixture cooled to 0° C. Nitric acid (90%, 10.4 g) was then added slowly over about 3 hours such that the temperature was maintained at -5 to 0° C. On completion of the nitric acid addition the reaction was quenched with water (60 g) at 0° C. The mixture was warmed to 50-60° C. and the aqueous layer removed. The solvent layer was washed with water (2×100 g) at 60° C. and the aqueous layer removed. The solvent and acetic acid were removed by distillation to give 2-nitro-5-(2-chloro-α,α,α-trifluoro-4-tolyloxy) benzoic acid (85%), 2'-nitro isomer (7.5 to 8.5 pph), total dinitro's (~0.5 pph).

reactant | Acetic anhydride | 37.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(2-chloro-α,α,α-trifluoro-4-tolyloxy)-benzoic acid | 45 g | ClC1=C(C=CC(=C1)OC=1C=C(C(=O)O)C=CC1)C(F)(F)F | C14H8ClF3O3
reactant | Sulphuric acid | 12.2 g | S(O)(O)(=O)=O | H2O4S
reactant | Nitric acid | 10.4 g | [N+](=O)(O)[O-] | HNO3
solvent | n-butyl acetate | 85.8 g | C(C)(=O)OCCCC | C6H12O2
product | 2-nitro-5-(2-chloro-α,α,α-trifluoro-4-tolyloxy) benzoic acid | 85% | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)OC1=CC(=C(C=C1)C(F)(F)F)Cl | C14H7ClF3NO5
